US08372842B2
TFA (1 mL) was added to tert-butyl 4-(5-(3-fluorophenyl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.25 g, 0.483 mmol) in DCM (5 mL) and stirred at room temperature for 2 hours. The reaction was then concentrated to dryness and dried under vacuum for 3 hours. TFA (1.86 mL, 24.2 mmol) was then added, and the mixture was heated to 65° C. for 3 hours. The reaction was then concentrated to dryness. The resulting residue was dissolved in DCM (2 mL), and HCl in ether (2 mL, 2M) and ether (5 mL) were added. The resulting solid was collected by filtration to give 5-(3-fluorophenyl)-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride (0.17 g, 94%). MS ESI (+) m/z 298.1 detected.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(5-(3-fluorophenyl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.483 mmol, 0.25 g | FC=1C=C(C=CC1)C=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C29H32FN5O3
reactant | TFA | 24.2 mmol, 1.86 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-fluorophenyl)-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride | 0.17 g, 94% | Cl.Cl.FC=1C=C(C=CC1)C=1C(=C2C(=NC1)NN=C2)N2CCNCC2 | InChI=1S/C16H16FN5.2ClH/c17-12-3-1-2-11(8-12)13-9-19-16-14(10-20-21-16)15(13)22-6-4-18-5-7-22;;/h1-3,8-10,18H,4-7H2,(H,19,20,21);2*1H
